US04410536
1-Butyl-9-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 5, from 25.6 g of 3-butyl-5-hydrazinobenzothiophene hydrochloride and 13.5 g of 1-methyl-4-piperidone in ethylene glycol, the mixture being heated to 100° C. for 30 minutes and then to 180° C. Melting point: 192°-193° C.

reactant | 3-butyl-5-hydrazinobenzothiophene hydrochloride | 25.6 g | Cl.C(CCC)C1=CSC2=C1C=C(C=C2)NN
reactant | 1-methyl-4-piperidone | 13.5 g | CN1CCC(CC1)=O | C6H11NO
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-Butyl-9-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | C(CCC)C1=CSC=2C1=C1C3=C(NC1=CC2)CCN(C3)C | C18H22N2S
